US04700008
Synthesis of 4,8-dimethylbicyclo[3.3.1]nona-7-en-2-yl methyl ether [IB]
To a solution of 10 g (60.2 mmol) of 4,8-dimethylbicyclo[3.3.1]nona-7-en-2-ol [IA] in 60 ml of tetrahydrofuran were added 1.3 g (56.5 mmol) of sodium and the resulting mixture was heated with stirring at 40° C. After the sodium was dissolved, 12.8 g (90 mmol) of methyl iodide were added dropwise and the resulting mixture was heated with stirring at 40° C. for 10 hours. After cooling, the tetrahydrofuran was distilled off under reduced pressure, the residue was subjected to column chromatography and eluate with toluene gave 7.8 g of the title compound, which had a refrigerant and camphor-like smell.

reactant | 4,8-dimethylbicyclo[3.3.1]nona-7-en-2-ol | 60.2 mmol, 10 g | CC1CC(C2C(=CCC1C2)C)O | C11H18O
reactant | sodium | 56.5 mmol, 1.3 g | [Na] | Na
reactant | methyl iodide | 90 mmol, 12.8 g | CI | CH3I
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4,8-dimethylbicyclo[3.3.1]nona-7-en-2-yl methyl ether | 7.8 g | COC1C2C(=CCC(C(C1)C)C2)C | C12H20O
